* C:\Users\Sebastian Moreno\Documents\GitHub\Digital_2024_2\Lab_01\SN70LS04\SPICE\Simulacion1.asc
XU1 NodoResistencia In N001 0 SN74LS04
V1 N001 0 5
V2 In 0 5
R1 0 NodoResistencia 1k
.tran 5m uic
.lib C:\Users\Sebastian Moreno\AppData\Local\LTspice\lib\sym\propios\SN74LS04.cir
.backanno
.end
